US04031093
A solution of triethyloxonium fluoroborate (33.0 g., 0.175 mole) in methylene chloride (75 ml.) was added during 10 minutes to a stirred solution of 2-n-propoxybenzamide (31.3 g., 0.175 mole) in methylene chloride (150 ml.). The solution was stirred for an additional 18 hours at room temperature. The solution was concentrated to about one-fifth volume and was diluted with diethyl ether to precipitate the ethyl 2-n-propoxybenzimidate fluoroborate (44.0 g., 85% yield), m.p. 108°-112°.

reactant | triethyloxonium fluoroborate | 0.175 mole, 33.0 g | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | 2-n-propoxybenzamide | 0.175 mole, 31.3 g | C(CC)OC1=C(C(=O)N)C=CC=C1 | C10H13NO2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-n-propoxybenzimidate fluoroborate | 44.0 g, 85% yield | F[B-](F)(F)F.C(CC)OC1=C(C(OCC)=N)C=CC=C1 | InChI=1S/C12H17NO2.BF4/c1-3-9-15-11-8-6-5-7-10(11)12(13)14-4-2;2-1(3,4)5/h5-8,13H,3-4,9H2,1-2H3;/q;-1
